US08008506B2
(R)-N-(3-(2-(2-hydroxyethylamino)-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide
(R)-N-benzyl-N-(3-(2-(benzyl-(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide (500 mg; an intermediate described in Reference Example 1 of WO 03/035620) was dissolved in THF (1.76 mL; manufactured by Wako Pure Chemical Industries, Ltd.) and methanol (1.76 mL; manufactured by Wako Pure Chemical Industries, Ltd.) under a nitrogen atmosphere, and 20% palladium hydroxide on carbon-49.94% wet with water (102.7 mg; manufactured by N.E. Chemcat Corp.) was added thereto. Subsequently, the reaction system was purged with hydrogen, and under a hydrogen atmosphere, the reaction solution was stirred for 15 hours at 50° C. The reaction solution was cooled to room temperature, purged with nitrogen, and then filtered. The filtrate was concentrated under reduced pressure, and thus the title compound (364 mg) was obtained.

reactant | (R)-N-benzyl-N-(3-(2-(benzyl-(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC(=CC=C1)[C@H](CN(CCO)CC1=CC=CC=C1)O[Si](CC)(CC)CC | C31H44N2O4SSi
reactant | methanol | 1.76 mL | CO | CH4O
reactant | water | 102.7 mg | O | H2O
solvent | THF | 1.76 mL | C1CCOC1 | C4H8O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | (R)-N-(3-(2-(2-hydroxyethylamino)-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | 364 mg | OCCNC[C@H](O[Si](CC)(CC)CC)C=1C=C(C=CC1)NS(=O)(=O)C | C17H32N2O4SSi
